US08247429B2
2-(5-fluoro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethanamine
To a solution of (5-fluoro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)acetonitrile (156 mg, 0.686 mmol) in tetrahydrofuran/methanol (5 mL/5 mL) were added Raney cobalt (1.5 g) and 2M ammonia/methanol solution (2 mL), and the mixture was stirred under a hydrogen atmosphere at room temperature for 4 hr. The catalyst was filtered off through celite, and the filtrate was concentrated under reduced pressure to give the title compound (157 mg, yield 99%).

reactant | (5-fluoro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)acetonitrile | 0.686 mmol, 156 mg | FC=1C2=C(C3=CN(N=C3C1)C)C(CC2)=CC#N | C13H10FN3
reactant | ammonia methanol | 2M, 2 mL | N.CO
solvent | tetrahydrofuran methanol | 5 mL | O1CCCC1.CO
catalyst | cobalt | 1.5 g | [Co] | Co
product | 2-(5-fluoro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethanamine | 157 mg, yield 99% | FC=1C2=C(C3=CN(N=C3C1)C)C(CC2)=CCN | C13H14FN3
